US05977105
b) 6-((2R)-2-Hydroxy-4-(3-pyridyl)-1-butoxy)naphthalen-2-yloxyacetic acid methyl ester
Prepared according to the method described in example 26e) from (2R)-2-(tert-butyldimethylsilyloxy)-4-(3-pyridyl)-1-butyl para-toluenesulfonate (1.00 g), 6-Hydroxy-2-naphthyloxyacetic acid methyl ester, sodium hydride (60% dispersion in mineral oil, 0.11 g) in dimethylformamide (15 ml) with heating at 75° C. for 1 hour. The adduct was dissolved in tetrahydrofuran (10 ml) and tetrabutylammonium fluoride hydrate (1.5 g) was added. After 4 hours, the mixture was diluted with water and extracted with ether. The organic extracts were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography over silica eluting with hexane:acetone (3:2 then 1:1) to give the sub-title compound as a solid (0.22 g).

reactant | (2R)-2-(tert-butyldimethylsilyloxy)-4-(3-pyridyl)-1-butyl para-toluenesulfonate | 1.00 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@@H](CCC=1C=NC=CC1)O[Si](C)(C)C(C)(C)C)C | C22H33NO4SSi
reactant | 6-Hydroxy-2-naphthyloxyacetic acid methyl ester | COC(COC1=CC2=CC=C(C=C2C=C1)O)=O | C13H12O4
reactant | sodium hydride | 0.11 g | [H-].[Na+]
reactant | tetrabutylammonium fluoride hydrate | 1.5 g | O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 6-((2R)-2-Hydroxy-4-(3-pyridyl)-1-butoxy)naphthalen-2-yloxyacetic acid methyl ester | 0.22 g | COC(COC1=CC2=CC=C(C=C2C=C1)OC[C@@H](CCC=1C=NC=CC1)O)=O | C22H23NO5
